US05041458
Preparation of N-[(4-Fluorophenyl)(1-methylethylmercapto)methylene]-1H-1,2,4-triazole-1-amine
A solution of 1.83 g (8.9 mmol) of 4-fluoro-N-(1H-1,2,4-triazol-1-yl)-benzamide and 1.05 g (8.9 mmol) of phosphorous pentachloride and 20 mL of phosphorous oxychloride is heated at reflux for 1 h. Solvent is stripped and the residue dissolved in 30 mL of benzene. Triethylamine (1.4 mL, 10 mmol) and 1.0 g (13 mmol) of isopropyl mercaptan is added and the solution is heated at reflux for 4 h. The solution is diluted with ethyl acetate and washed with water and brine. Drying (MgSO4) and removal of solvent gives product which is purified by chromatography on silica gel.

reactant | 4-fluoro-N-(1H-1,2,4-triazol-1-yl)-benzamide | 8.9 mmol, 1.83 g | FC1=CC=C(C(=O)NN2N=CN=C2)C=C1 | C9H7FN4O
reactant | phosphorous pentachloride | 8.9 mmol, 1.05 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorous oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | isopropyl mercaptan | 13 mmol, 1.0 g | C(C)(C)S | C3H8S
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(4-Fluorophenyl)(1-methylethylmercapto)methylene]-1H-1,2,4-triazole-1-amine | FC1=CC=C(C=C1)C(=NN1N=CN=C1)SC(C)C | C12H13FN4S
